US09315543B2
Allyl-N-(tert-butoxycarbonyl)-O-[(4-nitrophenoxy)carbonyl]-L-tyrosinate
36.7 g (114.3 mmol) N-Boc-L-tyrosine allyl ester, 23.0 g (114.3 mmol) 4-nitrophenyl chloroformate, 17.5 ml (125.7 mmol) triethylamine and 1.40 g (11.4 mmol) 4-dimethylamino pyridine were combined in 1000 ml dichloromethane and stirred at room temperature for 2 h. The reaction mixture was extracted with approx. 500 ml water and with approx. 250 ml brine and dried over approx. 100 g sodium sulfate. The solvent was removed by rotary evaporation (approx. 40° C., approx. 200 mbar, approx. 30 min.) and the product was dissolved in warm diethyl ether and crystallized over night at 4° C. The crystals were filtered of, washed with cold diethyl ether and dried in high vacuum (approx. 0.1 mbar, 18 h). The yield was 29.86 g, (59.6 mmol, 52% of theory) of the desired product.

reactant | N-Boc-L-tyrosine allyl ester | 114.3 mmol, 36.7 g | C(C=C)OC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)=O | C17H23NO5
reactant | 4-nitrophenyl chloroformate | 114.3 mmol, 23.0 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | triethylamine | 125.7 mmol, 17.5 ml | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylamino pyridine | 11.4 mmol, 1.40 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 1000 ml | ClCCl | CH2Cl2
product | Allyl-N-(tert-butoxycarbonyl)-O-[(4-nitrophenoxy)carbonyl]-L-tyrosinate | C(C=C)OC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)OC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])=O | C24H26N2O9
